US05814653
6-(2,4-dichlorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 9.5 μL (0.051 mMol) 2,4-dichlorobenzoyl chloride, 12.8 mg (72%) of the title compound were recovered as a light beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 2,4-dichlorobenzoyl chloride | 0.051 mMol, 9.5 μL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
product | 6-(2,4-dichlorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 12.8 mg, 72% | ClC1=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=CC(=C1)Cl | C21H21Cl2N3O
